US07981903B2
To a solution of 2-bromo-6-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzoic acid (1.5 g, 2.87 mmol) in THF(200 ml) was added oxalyl chloride (4.31 ml, 8.62 mmol, 2.0M DCM) and the reaction was stirred at rt for 1 hr. The reaction was concentrated on rotovap, redissolved in THF, evaporated again, and high vacced prior to next step to yield 8-bromo-5-chloro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (1.3 g, 90%). ESIMS (M+H)+=503.

reactant | 2-bromo-6-({2-chloro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzoic acid | 2.87 mmol, 1.5 g | BrC1=C(C(=O)O)C(=CC=C1)NC=1C2=C(N=C(N1)Cl)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C20H14BrClN4O4S
reactant | oxalyl chloride | 8.62 mmol, 2.0M, 4.31 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 8-bromo-5-chloro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 90% | Cl.BrC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3Cl)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | InChI=1S/C20H12BrClN4O3S.ClH/c1-11-5-7-12(8-6-11)30(28,29)25-10-9-13-17(25)24-20(22)26-18(13)23-15-4-2-3-14(21)16(15)19(26)27;/h2-10H,1H3;1H
